US05147893
Methyl [(2-chlorocyclohexyl)sulfinyl]acetate
Methyl [(2-chlorocyclohexyl)thio]acetate (2.5 g, 0.0112 mole) was added to methylene chloride (35 ml) and the mixture was cooled to 5° C. with an ice bath. 3-Chloroperoxybenzoic acid (85%, 2.3 g, 0.0112 mole) was added, and the reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was cooled to 5° C. with an ice bath, and filtered. Solid sodium thiosulfate was added to the filtrate and the mixture was stirred for several minutes then filtered. The filtrate was dried over anhydrous magnesium sulfate. After filtering, the filtrate was concentrated in a rotary evaporator to give the product as a solid. The structure was supported by NMR.

reactant | Methyl [(2-chlorocyclohexyl)thio]acetate | 0.0112 mole, 2.5 g | ClC1C(CCCC1)SCC(=O)OC | C9H15ClO2S
reactant | 3-Chloroperoxybenzoic acid | 0.0112 mole, 2.3 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | Methyl [(2-chlorocyclohexyl)sulfinyl]acetate | ClC1C(CCCC1)S(=O)CC(=O)OC | C9H15ClO3S
